US04880817
3-Acetoxy-1-bromomethyl-6,7-dimethoxy-4-nitroisoquinoline Hemihydrate (48).
A mixture of 3-acetoxy-6,7-dimethoxy-1-methyl-4-nitroisoquinoline (4.0 g, 13.06 mmol) in methylene chloride (100 mL) and N-bromosuccinimide (2.8 g, 15.66 mmol) was heated to reflux under nitrogen for 17 hours. The mixture was evaporated to dryness. The residue was redissolved in methylene chloride (60 mL) and the major product was isolated by chromatography on a silica gel column (low pressure) using 7:3 methylene chloride/hexane as the eluent to yield the title compound (2.13 g, 39%). One recrystallization from methylene chloride/ether gave the purified title compound as a lemon yellow crystalline solid (2.08 g, 38.7%), mp 194°-195° C. (d). IR (KBr) 1777, 1174 cm-1 ; NMR (CDCl3): δ 2.40 (s, 3H, OCOCH3), 4.05 (s, 3H, OCH3), 4.10 (s, 3H, OCH3), 4.90 (s, 2H, 1-CH2Br), 7.30 (s, 1 H, B 5- or 8-H), 7.43 (s, 1H, 5- or 8-H); MS (DCI): 385 (MH)+.

reactant | 3-acetoxy-6,7-dimethoxy-1-methyl-4-nitroisoquinoline | 13.06 mmol, 4.0 g | C(C)(=O)OC=1N=C(C2=CC(=C(C=C2C1[N+](=O)[O-])OC)OC)C | C14H14N2O6
reactant | N-bromosuccinimide | 15.66 mmol, 2.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | methylene chloride hexane | C(Cl)Cl.CCCCCC
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
product | 3-Acetoxy-1-bromomethyl-6,7-dimethoxy-4-nitroisoquinoline Hemihydrate | 2.13 g, 39% | O.C(C)(=O)OC=1N=C(C2=CC(=C(C=C2C1[N+](=O)[O-])OC)OC)CBr.C(C)(=O)OC=1N=C(C2=CC(=C(C=C2C1[N+](=O)[O-])OC)OC)CBr | InChI=1S/2C14H13BrN2O6.H2O/c2*1-7(18)23-14-13(17(19)20)9-5-12(22-3)11(21-2)4-8(9)10(6-15)16-14;/h2*4-5H,6H2,1-3H3;1H2
